US09278960B2
7-Chloro-4-(2-fluoro-4-methoxyphenyl)quinoline-2-carbonitrile (4.4 g, 14.07 mmol) was suspended in MeOH (70.3 ml), added 200 ml sat HCl/MeOH and then heated to 60° C. for 4 hours. The reaction was allowed to cool to ambient temperature and then was concentrated. The residue was dissolved in EtOAc and then washed with 1:1 1N NaOH/sat NaHCO3, brine, dried (MgSO4) and concentrated to afford methyl 7-chloro-4-(2-fluoro-4-methoxyphenyl)quinoline-2-carboxylate (4.4 g, 12.73 mmol, 90% yield) as a yellow solid.

reactant | 7-Chloro-4-(2-fluoro-4-methoxyphenyl)quinoline-2-carbonitrile | 14.07 mmol, 4.4 g | ClC1=CC=C2C(=CC(=NC2=C1)C#N)C1=C(C=C(C=C1)OC)F | C17H10ClFN2O
reactant | HCl MeOH | Cl.CO
reactant | MeOH | 70.3 ml | CO | CH4O
product | methyl 7-chloro-4-(2-fluoro-4-methoxyphenyl)quinoline-2-carboxylate | 12.73 mmol, 4.4 g, 90% yield | ClC1=CC=C2C(=CC(=NC2=C1)C(=O)OC)C1=C(C=C(C=C1)OC)F | C18H13ClFNO3
